US04994454
1.2 g (22.4 mmoles) of ammonium chloride in 2.2 ml of water and 1.2 ml of a 4 N hydroxide solution at -10° C. were added to a stirred solution of 1.68 g (purity 92%; 2.78 mmoles) of trichloroethyl (1S,4R,6R,7R)-3-bromomethyl-1-oxo-7-phenylacetamidocepham-4-carboxylate in 15 ml of acetone and 2 ml of dimethylformamide. After adding 1.5 g (15.3 mmoles) of activated zinc powder the mixture was stirred at 4° C. for 70 min. Then 3 ml of water and 3.6 ml of a 4 N hydrochloric acid solution were added and the solid material was filtered off. To the filtrate 50 ml of warm water was added. After cooling to 0° C. the crystals were filtered off, washed and dried giving 153 mg of dichloro-ethyl (1S,4R,6R,7R)-7-phenylacetamido-3-methylene-1-oxo-cepham- 4-carboxylate with a purity of 83%. Yield 10%.

reactant | ammonium chloride | 22.4 mmoles, 1.2 g | [Cl-].[NH4+]
reactant | hydroxide | 4 N | [OH-]
reactant | trichloroethyl (1S,4R,6R,7R)-3-bromomethyl-1-oxo-7-phenylacetamidocepham-4-carboxylate | 2.78 mmoles, 1.68 g | BrCC1C[S@@]([C@H]2N([C@H]1C(=O)OCC(Cl)(Cl)Cl)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O | C18H18BrCl3N2O5S
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | water | 2.2 ml | O | H2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 15.3 mmoles, 1.5 g | [Zn] | Zn
solvent | water | 3 ml | O | H2O
product | dichloro-ethyl (1S,4R,6R,7R)-7-phenylacetamido-3-methylene-1-oxo-cepham- 4-carboxylate | 153 mg, Yield 10% | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N([C@H](C(C[S@@]2=O)=C)C(=O)OCC(Cl)Cl)C1=O | C18H18Cl2N2O5S
